US06187777B1
4-Piperidyl-6-(2-pyridyl)pyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate.
Using the method described in Example 30 by employing 2-(1-pyrrolidinylvinyl)-2-pyridine (freshly prepared before use) (2.30 g, 13.2 mmol), 4,6-dichloro-5-nitropyrimidine (Aldrich Chemical Company) (2.55 g, 13.2 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (2.3 mL, 13.2 mmol), piperidine (2.1 mL, 21.1 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (Aldrich Chemical Company) (40 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 340 mg (9%) of the free base as a beige colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.66 (s, 6), 3.76 (s, 4), 7.13 (br s, 1), 7.41 (t, 1, J=4.8), 7.92 (t, 1, J=7.4), 8.10 (d, 1, J=8.0), 8.26 (br s, 1), 8.70 (br s, 1), 11.24 (s, 1). MS m/z: 280 (M+1). To a solution of 4-piperidyl-6-(2-pyridyl)pyrrolo[3,2-d]pyrimidine (0.34 g, 1.21 mmol) in 15:1 EtOAc:MeOH (30 mL) was added 1N etheral HCl (Aldrich Chemical Company) (1.20 mL, 1.21 mmol). The precipitate was collected by filtration, washed with EtOAc (2×10 mL), ether (3×15 mL) and dried under vacuum to give 300 mg (79%) of the title compound as a tan colored powder. Mp: 279-280° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.72 (s, 6), 4.0 (br s, 4), 7.24 (s, 1), 7.52 (dd, 1, J=7.4, 7.5), 8.01 (dt, 1, J=1.3, 7.7), 8.24 (d, 1, J=8.0), 8.64 (s, 1), 8.77 (d, 1, J=4.4), 12.21 (s, 1), 14.51 (s, 1). MS m/z: 280 (M+1). Anal. Calcd for C16H17N5.1.2HCl.0.7H2O: C, 56.91; H, 5.88; N, 20.75; Cl, 13.01. Found C, 56.91; H, 5.83; N, 20.54; Cl, 12.92.

reactant | 4-piperidyl-6-(2-pyridyl)pyrrolo[3,2-d]pyrimidine | 1.21 mmol, 0.34 g | N1CCC(CC1)C1=NC=C2C(N1)=CC(=N2)C2=NC=CC=C2 | C16H17N5
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1.21 mmol, 1N, 1.20 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 4-Piperidyl-6-(2-pyridyl)pyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate | 300 mg, 79% | O.Cl.N1CCC(CC1)C1=NC=C2C(N1)=CC(=N2)C2=NC=CC=C2 | InChI=1S/C16H17N5.ClH.H2O/c1-2-6-18-12(3-1)13-9-14-15(20-13)10-19-16(21-14)11-4-7-17-8-5-11;;/h1-3,6,9-11,17H,4-5,7-8H2,(H,19,21);1H;1H2
